US05891909
b) 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propanol
To a solution of 3-(2-cyanophenylsulfonyloxy)-5-methylphenol (580 mg, 2.0 mmol), as prepared in the preceding step, tri-n-butylphosphine (607 mg, 3.0 mmol), and 1,3-propanediol (760 mg, 10 mmol) in anhydrous tetrahydrofuran (20 mL) was added 1,1'-(azodicarbonyl)dipiperidine (757 mg, 3.0 mmol). The mixture was stirred at room temperature overnight. Hexane (30 mL) was added to the mixture, and the precipitates were removed by filtration. The filtrate was evaporated in vacuo, and the residue was purified by flash column chromatography (10% ethyl acetate in dichloromethane) to give the title compound as a colorless oil (560 mg, 80%). 1H-NMR (300 MHz, CDCl3) δ 8.11 (m, 1H), 7.94 (m, 1H), 7.77-7.82 (m, 2H), 6.65 (s, 1H), 6.59 (s, 1H), 6.57 (s, 1H), 4.05 (t, J=6.0 Hz, 2H), 3.82 (t, J=6.0 Hz, 2H), 2.26 (s, 3H), 2.00 (m, 2H), 1.76 (brs, 1H).

reactant | 3-(2-cyanophenylsulfonyloxy)-5-methylphenol | 2.0 mmol, 580 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C14H11NO4S
reactant | tri-n-butylphosphine | 3.0 mmol, 607 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,3-propanediol | 10 mmol, 760 mg | C(CCO)O | C3H8O2
reactant | 1,1'-(azodicarbonyl)dipiperidine | 3.0 mmol, 757 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Hexane | 30 mL | CCCCCC | C6H14
product | 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propanol | 560 mg, 80% | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C17H17NO5S
